US07981874B2
To a solution of NaBH4 (1.23 g, 32.4 mmol) in MeOH (20 ml) was added a solution of dimethyl [4-(tert-butoxycarbonyl)phenyl]malonate (2.00 g, 6.49 mmol) in 3:2 MeOH:THF (18 mL). The reaction was stirred at room temperature for 2 h. It was then quenched with saturated NH4Cl and extracted with EtOAc (2×). The combined organic layers were washed with brine, dried (MgSO4), and evaporated. Flash chromatography (0-10% MeOH/CH2Cl2) afforded tert-butyl 4-[2-hydroxy-1-(hydroxymethyl)ethyl]benzoate as a colorless solid. 1H NMR (CDCl3, 600 MHz) δ 7.93 (d, J=8.4 Hz, 2H), 7.27 (d, J=8.2 Hz, 2H), 3.99 (ddd, J=10.8, 7.4, 5.1 Hz, 2H), 3.93 (dt, J=10.7, 5.2 Hz, 2H), 3.13 (tt, J=7.6, 5.5 Hz, 1H), 2.14 (t, J=5.3 Hz, 2H), 1.56 (s, 9H). MS: cal'd 275 (MH+), exp 275 (M)H+).

reactant | NaBH4 | 32.4 mmol, 1.23 g | [BH4-].[Na+]
reactant | dimethyl [4-(tert-butoxycarbonyl)phenyl]malonate | 6.49 mmol, 2.00 g | C(C)(C)(C)OC(=O)C1=CC=C(C=C1)C(C(=O)OC)C(=O)OC | C16H20O6
reactant | THF | 18 mL | C1CCOC1 | C4H8O
solvent | MeOH | 20 ml | CO | CH4O
product | tert-butyl 4-[2-hydroxy-1-(hydroxymethyl)ethyl]benzoate | OCC(CO)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C14H20O4
